US08895582B2
To a solution of (S)-2-(tert-butoxycarbonylamino)pent-4-enoic acid (166 g, 0.77 mol) and Et3N (214 mL) in THF (2.5 L) was added methyl chloroformate (71.2 mL, 0.93 mol) at 0-5° C. The reaction mixture was stirred for 15 min and filtered to remove TEA salt. To the filtrate was added a solution of NaBH4 (60 g, 1.54 mol) in a small amount of water at 0-5° C. The reaction was stirred at RT for 1 h and quenched with saturated NH4Cl solution. The reaction mixture was concentrated to remove most of THF and extracted with EtOAc (700 mL×3). The organic layers were washed with water, NaOH (1 N) and brine, dried over Na2SO4, and concentrated to give (S)-tert-butyl 1-hydroxypent-4-en-2-ylcarbamate (165 g), which was used without further purification. LRMS (M+H+) m/z 202.1.

reactant | (S)-2-(tert-butoxycarbonylamino)pent-4-enoic acid | 0.77 mol, 166 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC=C | C10H17NO4
reactant | Et3N | 214 mL | CCN(CC)CC | C6H15N
reactant | methyl chloroformate | 0.93 mol, 71.2 mL | ClC(=O)OC | C2H3ClO2
reactant | NaBH4 | 1.54 mol, 60 g | [BH4-].[Na+]
solvent | THF | 2.5 L | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | (S)-tert-butyl 1-hydroxypent-4-en-2-ylcarbamate | 165 g | OC[C@H](CC=C)NC(OC(C)(C)C)=O | C10H19NO3
